US06479490B2
Methyl 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)-2-nitrobenzoate (2.8 g, 9 mmol) was dissolved in 25 mL of methanol and 2 mL of water. To the above solution was added lithium hydroxide (1.13 g, 3 eq.). After stirring the reaction mixture at room temperature for 5 h, the volatile was removed under vacuo and the residue was partitioned between EtOAc and H2O. The aqueous layer was separated, cooled with an ice bath, and then acidified with 10% aq. HCl. The acidic aqueous layer was extracted with EtOAc. The EtOAc layer was washed with NaCl (sat.), dried over Na2SO4, and concentrated to give 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)-2-nitrobenzoic acid as a white solid (1.9 g).

reactant | Methyl 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)-2-nitrobenzoate | 9 mmol, 2.8 g | CC1(OC[C@H](O1)COC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-])C | C14H17NO7
reactant | lithium hydroxide | 1.13 g, 3 eq. | [OH-].[Li+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethyloxy)-2-nitrobenzoic acid | 1.9 g | CC1(OC[C@H](O1)COC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-])C | C13H15NO7
